US04814332
In an analogous manner, from 1-[[p-(dimethylamino)benzylidene]amino]-2-(3,4,5-trimethoxyphenyl)imidazole, there is obtained after 2 days at 50° in acetonitrile 3-[[p-(dimethylamino)benzylidene]amino]-1-[p-(dimethylamino)phenacyl]-2-(3,4,5-trimethoxyphenyl)imidazolium bromide of melting point 232° (ethanol/ether).

reactant | ethanol ether | C(C)O.CCOCC
reactant | acetonitrile 3-[[p-(dimethylamino)benzylidene]amino]-1-[p-(dimethylamino)phenacyl]-2-(3,4,5-trimethoxyphenyl)imidazolium bromide | [Br-].CN(C1=CC=C(C=NN2C(=[N+](C=C2)CC(=O)C2=CC=C(C=C2)N(C)C)C2=CC(=C(C(=C2)OC)OC)OC)C=C1)C.C(C)#N
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-(3,4,5-trimethoxyphenyl)imidazole | CN(C1=CC=C(C=NN2C(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1)C | C21H24N4O3
